US04931083
3-(1-ethoxycarbonylethoxy)-1-(4-trifluoromethylphenyl)-1,2,4-1H-triazole
A 0.54 g portion of sodium was dissolved in 15 ml of absolute ethanol, and was added to 50 ml of dimethylsulfoxide containing 5.4 g of 3-hydroxy-1-(4-trifluoromethylphenyl)-1,2,4-1H-triazole. An additional 25 ml of dimethylsulfoxide was added, and the mixture was heated on the steam bath for 15 minutes. Then 4.3 g of ethyl 2-bromopropionate was added and heating was continued for 1 hour. The mixture was then cooled and poured over ice-water, and the product was collected, dried, and purified by high-performance liquid chromatography, eluting with 1:1 hexane:ethyl acetate. The product-containing fractions were combined and evaporated under vacuum to obtain 3.5 g of the desired product.

reactant | sodium | [Na] | Na
reactant | dimethylsulfoxide | 50 ml, 5.4 g | CS(=O)C | C2H6OS
reactant | 3-hydroxy-1-(4-trifluoromethylphenyl)-1,2,4-1H-triazole | OC1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C9H6F3N3O
reactant | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | ethyl 2-bromopropionate | 4.3 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(1-ethoxycarbonylethoxy)-1-(4-trifluoromethylphenyl)-1,2,4-1H-triazole | 3.5 g | C(C)OC(=O)C(C)OC1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C14H14F3N3O3
